US04743602
Sodium hydride (7.09 g-50% suspension in oil, 0.148 mol) was washed with petroleum ether, suspended in dry DMSO (100 ml) and heated with stirring at 60°-70° C. for 2 hours. The reaction mixture was then cooled to 15° C. and methyltriphenylphosphonium bromide (52.74 g, 0.136 mol) was added portionwise with rapid stirring over a 1/2 hour period. The reaction mixture was stirred at room temperature for a further 1 hour after the addition and 5-t-butyl-2-furancarboxaldehyde (22.46 g, 0.148 mol) was added dropwise over a period of 1 hour. The resultant reaction mixture was stirred at room temperature for 12 hours, poured into water (300 ml) and extracted with ether (4×150 ml). The ethereal extracts were washed with water (4×100 ml) and dried over anhydrous sodium sulphate. Removal of the solvent gave a yellow oil which was purified by column chromatography (silica eluted with petroleum ether) to give (5-t-butylfuran-2-yl)-ethylene (11.03 g, 50%). Ethyl diazoacetate (4.45 g, 0.039 mol) in dry dichloromethane (70 ml) was added dropwise to a solution of (5-t-butylfuran-2-yl)-ethylene (5.85 g, 0.039 mol) and anhydrous copper (II) sulphate (0.3 g) in dry dichloromethane (30 ml) at 90° C. by means of a syringe pump over a period of 5 hours. The dichloromethane was distilled over during the addition. After complete addition the remaining dichloromethane was removed in vacuo and the resulting brown oil purified by column chromatography (silica eluted with petroleum ether/ethyl acetate 9:1) to give ethyl 2-(5-t-butylfuran-2-yl)-cyclopropanecarboxylate (2.1 g, 23%).

reactant | Sodium hydride | 0.148 mol | [H-].[Na+]
reactant | 5-t-butyl-2-furancarboxaldehyde | 0.148 mol, 22.46 g | C(C)(C)(C)C1=CC=C(O1)C=O | C9H12O2
reactant | water | 300 ml | O | H2O
reactant | DMSO | 100 ml | CS(=O)C | C2H6OS
catalyst | methyltriphenylphosphonium bromide | 0.136 mol, 52.74 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (5-t-butylfuran-2-yl)-ethylene | 11.03 g, 50% | C(C)(C)(C)C1=CC=C(O1)C=C | C10H14O
